US09340538B2
Step C: Ethyl 4-(2,4-dichlorophenyl)-6-methyl-2-(4-(trifluoromethyl)thiazol-2-yl)-1,4-dihydropyrimidine-5-carboxylate
4-(trifluoromethyl)thiazole-2-carboximidamide acetate (0.38 g, 1.49 mmol) was reacted with 2,4-dichlorobenzaldehyde (0.26 g, 1.49 mmol) and ethyl 3-oxobutanoate (0.2 g, 1.49 mmol) according to the procedure as described in Example 1, Step A to give the title compound as a yellow solid (0.44 g, 64%). The compound was characterized by the following spectroscopic data:

reactant | 4-(trifluoromethyl)thiazole-2-carboximidamide acetate | 1.49 mmol, 0.38 g | C(C)(=O)O.FC(C=1N=C(SC1)C(N)=N)(F)F
reactant | 2,4-dichlorobenzaldehyde | 1.49 mmol, 0.26 g | ClC1=C(C=O)C=CC(=C1)Cl | C7H4Cl2O
reactant | ethyl 3-oxobutanoate | 1.49 mmol, 0.2 g | O=C(CC(=O)OCC)C | C6H10O3
product | Ethyl 4-(2,4-dichlorophenyl)-6-methyl-2-(4-(trifluoromethyl)thiazol-2-yl)-1,4-dihydropyrimidine-5-carboxylate | 0.44 g, 64% | ClC1=C(C=CC(=C1)Cl)C1N=C(NC(=C1C(=O)OCC)C)C=1SC=C(N1)C(F)(F)F | C18H14Cl2F3N3O2S
